US06326359B1
(2R,3R,4S,5R)-2-{2-{[(2,6-Dimethyl-3-pyridinyl)amino]methyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol
{9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate (preparation 25) (75 mg, 0.13 mmol) was added to a solution of 2,6dimethyl-3-pyridinylamine (22 mg, 0.17 mmol) and triethylamine (0.036 ml, 0.26 mmol) in ethyl acetate (3 ml) and N,N-dimethylformamide (1 ml) in the reaction vessel of a Argonaut Quest 210 machine. The reaction mixture was agitated and heated to 60° C. for 12 hr. More 2,6-dimethyl-3-pyridinylamine (22 mg, 0.17 mmol) and triethylamine (0.036 ml, 0.26 mmol) were added and heating and agitation continued for a further 24 hr. The reaction mixture was then washed with water and the organic phase separated and dried with anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give a residue which was purified by reverse phase HPLC using firstly a Lana C8 (2) column and then a Magellan C18 column eluting with 5 mM ammonium acetate in water:2 mM ammonium acetate in acetonitrile (90:10) decreasing in polarity to 5 mM ammonium acetate in water:2 mM ammonium acetate in acetonitrile (10:90) as eluant. This gave the title compound (9 mg) as a gum. MS: 596 (MH+).

reactant | {9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl methanesulfonate | 0.13 mmol, 75 mg | CS(=O)(=O)OCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31N5O7S
reactant | 2,6dimethyl-3-pyridinylamine | 0.17 mmol, 22 mg | CC1=NC(=CC=C1N)C | C7H10N2
reactant | triethylamine | 0.26 mmol, 0.036 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-dimethyl-3-pyridinylamine | 0.17 mmol, 22 mg | CC1=NC(=CC=C1N)C | C7H10N2
reactant | triethylamine | 0.26 mmol, 0.036 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | (2R,3R,4S,5R)-2-{2-{[(2,6-Dimethyl-3-pyridinyl)amino]methyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol | 9 mg | CC1=NC(=CC=C1NCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H37N7O4
